US08629270B2
1-(5-Fluorothiophen-2-yl)ethanone
To a stirred solution of 5-fluoro-N-methoxy-N-methylthiophene-2-carboxamide (12.34 g, 65.2 mmol) in tetrahydrofuran (163 mL) at 0° C. under nitrogen is added methyl magnesium bromide (3 M solution in tetrahydrofuran, 32.6 mL, 97.8 mmol) over a period of 25 minutes, while maintaining the internal temperature below 10° C. The cooling bath is removed and the solution is allowed to warm to room temperature over 1 hour. A saturated solution of ammonium chloride (200 mL) is added and the mixture is stirred for 10 minutes. The mixture is diluted with diethyl ether (200 mL) and the phases are separated. The aqueous phase is re-extracted with diethyl ether (2×150 mL) and the combined organic extracts are dried over sodium sulfate, filtered, and concentrated under reduced pressure (keeping the water bath below 25° C.) to give the crude title compound (9.70 g, 103%) as a pale amber liquid. 1H NMR (CDCl3) δ 2.47 (s, 3H), 6.53 (dd, J=1.2, 4.3 Hz, 1H), 7.38 (t, J=4.0 Hz, 1H).

reactant | 5-fluoro-N-methoxy-N-methylthiophene-2-carboxamide | 65.2 mmol, 12.34 g | FC1=CC=C(S1)C(=O)N(C)OC | C7H8FNO2S
reactant | methyl magnesium bromide | 97.8 mmol, 3 M, 32.6 mL | C[Mg]Br
solvent | tetrahydrofuran | 163 mL | O1CCCC1 | C4H8O
product | 1-(5-Fluorothiophen-2-yl)ethanone | 9.70 g, 103% | FC1=CC=C(S1)C(C)=O | C6H5FOS
